US09428510B2
1.42 g (1.1 eq) of 70% 3-chloroperbenzoic acid is added to a solution of 1.6 g (5.23 mmol) of 5-iodo-6-methoxy-2-(methylthio)nicotinonitrile in 20 ml of dichloromethane. The reaction medium is stirred at room temperature for 1 hour. Ethyl acetate is added and the organic phase is washed with saturated sodium bicarbonate solution, dried on magnesium sulfate, filtered and evaporated to yield 1.63 g (97%) of 5-iodo-6-methoxy-2-(methylsulfinyl)nicotinonitrile in the form of a white powder which may also contain 5-iodo-6-methoxy-2-(methylsulfonyl)nicotinonitrile in small proportions (<20%). If necessary, the mixture is used as-is in the following steps.

reactant | 3-chloroperbenzoic acid | 1.42 g, 1.1 eq | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 5-iodo-6-methoxy-2-(methylthio)nicotinonitrile | 5.23 mmol, 1.6 g | IC=1C(=NC(=C(C#N)C1)SC)OC | C8H7IN2OS
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 5-iodo-6-methoxy-2-(methylsulfinyl)nicotinonitrile | 1.63 g, 97% | IC=1C(=NC(=C(C#N)C1)S(=O)C)OC | C8H7IN2O2S
